US05563141
N-[4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenyl]methyl-4-methylphenylsulphonamide
A solution of N-([4-bromoacetylphenyl]methyl)-4-methylphenylsulphonamide (470 mg) in acetonitrile (10 ml) was added to a stirred solution of 1-(4-pyridyl)piperazine (400 mg) in acetonitrile (10 ml) and the mixture stirred for 18 hours. The solvent was evaporated in vacuo and the residue purified by flash chromatography on silica, eluting with 10% v/v methanol/dichloromethane. On evaporation of the eluant fraction to a small volume crystallisation occurred. These crystals, on filtration and washing with dichloromethane gave the title compound, 130 mg, as a solid: m.p. 215°-219° C. dec.; NMR(d6DMSO) δ8.14(3H,m), 7.91(2H,d), 7.69(2H,d), 7.38(4H,d), 6.82(2H,d), 4.03(2H,d), 3.89(2H,s), 3.32(4H,t), 2.62(4H,t), 2.39(3H,s); m/e 465(M+H)+ ; calculated for C25H28N4O3S: C, 64.6; N, 6.1; N, 12.1. found C, 64.7; H, 6.2; N, 12.0%.

reactant | N-([4-bromoacetylphenyl]methyl)-4-methylphenylsulphonamide | 470 mg | BrCC(=O)C1=CC=C(C=C1)CNS(=O)(=O)C1=CC=C(C=C1)C | C16H16BrNO3S
reactant | 1-(4-pyridyl)piperazine | 400 mg | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenyl]methyl-4-methylphenylsulphonamide | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)C1=CC=C(C=C1)CNS(=O)(=O)C1=CC=C(C=C1)C | C25H28N4O3S
